US04192945
(C) (4RS-9aS)-Hexahydro-4-methyl-1H,5H-pyrrolo-[2,1-c][1,4]thiazepine-1,5-dione.
3-[1-(tert-butyloxycarbonyl)-L-prolylthio]-2-methylpropanoic acid (2.3 g) is dissolved in a mixture of trifluoroacetic acid (15 ml) and anisole (1.1 g). After fifteen minutes at room temperature the mixture is concentrated to dryness in vacuo and the residue triturated with ether-hexane (1:1). The insoluble material is dried in vacuo, dissolved in dichloromethane (100 ml) and added dropwise to a stirred solution of 1-cyclohexyl-3-(2-morpholino-ethyl) carbodiimide metho-p-toluene sulfonate (20 g) in 900 ml of dichloromethane under argon. The reaction mixture is stored at room temperature for three days and the dichloromethane is then removed in vacuo. The residue is dissolved in ethyl acetate and the solution is washed with 10% potassium biculfate, water, saturated sodium bicarbonate and water. The organic layer is dried and concentrated to give the title compound.

reactant | 3-[1-(tert-butyloxycarbonyl)-L-prolylthio]-2-methylpropanoic acid | 2.3 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)SCC(C(=O)O)C)CCC1 | C14H23NO5S
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 1.1 g | C1(=CC=CC=C1)OC | C7H8O
product | (4RS-9aS)-Hexahydro-4-methyl-1H,5H-pyrrolo-[2,1-c][1,4]thiazepine-1,5-dione | CC1C(N2[C@H](C(SC1)=O)CCC2)=O | C9H13NO2S
